US04906645
(R)-6-Amino-a-[[(1,1-dimethyl-3-(3-hydroxyphenyl)propyl)amino]methyl]-3-pyridinemethanol Dihydrochloride
A solution of 137 mg (0.40 mmol) of (R)-a-[[(1,1-dimethyl-3-(3-hydroxyphenyl)propyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol and 182 mg (0.81 mmol) of SnCl2 ·H2O in 20 ml of methanol was heated at reflux for 21 hours. The reaction mixture was cooled in an ice bath and H2S was bubbled through the solution. The precipitate was removed by filtration and the filtrate concentrated. The residue was chromatographed on silica gel (94:6:2 CH2Cl2 :MeOH:NH4OH) to give pure product which was converted into its hydrochoride salt with ethanolic HCl, 97.3 mg, [a]D =-17.3° C.

reactant | (R)-a-[[(1,1-dimethyl-3-(3-hydroxyphenyl)propyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol | 0.40 mmol, 137 mg | CC(CCC1=CC(=CC=C1)O)(C)NC[C@H](O)C=1C=CC=2N(C1)N=NN2 | C18H23N5O2
reactant | HCl | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | (R)-6-Amino-a-[[(1,1-dimethyl-3-(3-hydroxyphenyl)propyl)amino]methyl]-3-pyridinemethanol Dihydrochloride | Cl.Cl.NC1=CC=C(C=N1)[C@@H](O)CNC(CCC1=CC(=CC=C1)O)(C)C | InChI=1S/C18H25N3O2.2ClH/c1-18(2,9-8-13-4-3-5-15(22)10-13)21-12-16(23)14-6-7-17(19)20-11-14;;/h3-7,10-11,16,21-23H,8-9,12H2,1-2H3,(H2,19,20);2*1H/t16-;;/m0../s1
